US06448262B1
Preparation of 2-[(4,4,3-Trifluoro-3-butenyl)thio]thiazolo[4,5-b]pyridine
A solution of thiazolo[4,5-b]pyridine-2-thiol (6.2 g, 0.037 mol) in N,N-dimethylformamide under nitrogen is treated with 1,1,2-trifluoro-4-bromobutene (8.3 g, 0.046 mol) and potassium carbonate (1.5 g), heated to and stirred at 60° C. for 24 hours, cooled, and poured into water. The resultant aqueous mixture is extracted with diethyl ether. The organic extract is dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Column chromatography of the residue using silica gel and a 9:1 hexanes/ethyl acetate solution gives the title product as a colorless oil (8.9 g, 64% yield).

reactant | thiazolo[4,5-b]pyridine-2-thiol | 0.037 mol, 6.2 g | S1C(=NC2=NC=CC=C21)S | C6H4N2S2
reactant | 1,1,2-trifluoro-4-bromobutene | 0.046 mol, 8.3 g | FC(=C(CCBr)F)F | C4H4BrF3
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[(4,4,3-Trifluoro-3-butenyl)thio]thiazolo[4,5-b]pyridine | 8.9 g, 64% yield | FC(=C(CCSC=1SC=2C(=NC=CC2)N1)F)F | C10H7F3N2S2
